US08895547B2
2-Methoxy-6,6-dimethyl-5-(4-morpholin-4-ylmethylphenyl)-5,6-dihydro-[1,4,3]oxathiazine 4,4-dioxide
2-Hydroxy-2-methyl-1-(4-morpholin-4-ylmethylphenyl)propane-1-sulfonamide (350 mg) was stirred with tetramethyl orthocarbonate (5 ml) and glacial acetic acid (1 ml) at 80° C. for 16 hours. The solvents were removed under reduced pressure and the residue was used further without further purification.

reactant | 2-Hydroxy-2-methyl-1-(4-morpholin-4-ylmethylphenyl)propane-1-sulfonamide | 350 mg | OC(C(S(=O)(=O)N)C1=CC=C(C=C1)CN1CCOCC1)(C)C | C15H24N2O4S
reactant | tetramethyl orthocarbonate | 5 ml | C(OC)(OC)(OC)OC | C5H12O4
solvent | acetic acid | 1 ml | C(C)(=O)O | C2H4O2
product | 2-Methoxy-6,6-dimethyl-5-(4-morpholin-4-ylmethylphenyl)-5,6-dihydro-[1,4,3]oxathiazine 4,4-dioxide | COC=1OC(C(S(N1)(=O)=O)C1=CC=C(C=C1)CN1CCOCC1)(C)C | C17H24N2O5S
